US09371320B2
B) 4-(4-oxo-1-(4-oxocyclohexyl)-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide
To a solution of 4-(1-(1,4-dioxaspiro[4.5]dec-8-yl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide (280 mg) in a mixed solvent of THF (15 mL) and water (1.5 mL) was added 1N hydrochloric acid (0.420 mL) at 0° C., and the mixture was stirred overnight at room temperature. To the reaction mixture was added 1N aqueous sodium hydroxide solution at 0° C., and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (219 mg).

reactant | 4-(1-(1,4-dioxaspiro[4.5]dec-8-yl)-4-methoxy-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide | 280 mg | O1CCOC12CCC(CC2)N2N=C(C=1C(=NC=CC12)OC)C1=CC=C(C=C1)S(=O)(=O)N | C21H24N4O5S
reactant | THF | 15 mL | C1CCOC1 | C4H8O
reactant | hydrochloric acid | 1N, 0.420 mL | Cl | ClH
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | water | 1.5 mL | O | H2O
product | 4-(4-oxo-1-(4-oxocyclohexyl)-4,5-dihydro-1H-pyrazolo[4,3-c]pyridin-3-yl)benzenesulfonamide | 219 mg | O=C1NC=CC2=C1C(=NN2C2CCC(CC2)=O)C2=CC=C(C=C2)S(=O)(=O)N | C18H18N4O4S
